US08686048B2
Intermediate 60: 3-fluoro-3′-methoxybiphenyl-4-amine
The title compound (430 mg) was prepared from 4-bromo-6-fluoroaniline (500 mg, 2.63 mmol) and 3-Methoxyphenylboronic acid (519 mg, 3.42 mmol) as a red liquid. 1H-NMR (δ ppm, DMSO-d6, 400 MHz): 7.34 (dd, J 2, 13.1, 1H), 7.27 (t, J 7.9, 1H), 7.22 (dd, J 2, 8.3, 1H), 7.12 (d, J 7.9, 1H), 7.09-7.07 (m, 1H), 6.84-6.78 (m, 2H), 5.29 (s, 2H), 3.78 (s, 3H).

reactant | 4-bromo-6-fluoroaniline | 2.63 mmol, 500 mg | BrC1=CC=C(N)C(=C1)F | C6H5BrFN
reactant | 3-Methoxyphenylboronic acid | 3.42 mmol, 519 mg | COC=1C=C(C=CC1)B(O)O | C7H9BO3
product | 3-fluoro-3′-methoxybiphenyl-4-amine | 430 mg | FC=1C=C(C=CC1N)C1=CC(=CC=C1)OC | C13H12FNO
